US07262202B2
HNO3 (0.28 mL of a 69% w/v aq solution, 4.37 mmol) was added dropwise to Ac2O (5 mL) at room temperature, keeping the internal temperature ≦25° C. The nitrating mixture was stirred at room temperature for 15 min before cooling to −40° C. 1-(2,4-dimethyl-1H-pyrrol-3-yl)-ethanone (500 mg, 3.64 mmol) was dissolved in Ac2O (6 mL) and added dropwise, keeping the internal temperature ≦−30° C. The mixture was stirred at −40° C. for 30 min then at −10° C. for a further 30 min. The mixture was poured into ice-water (50 mL) and was extracted with Et2O (3×60 mL). The combined organic eztracts were washed (brine), dried (Na2SO4), filtered, and evaporated in vacuo to give a dark brown solid. This was recrystallised from MeOH to afford 1-(2,4-dimethyl-5-nitro-1H-pyrrol-3-yl)-ethanone (158 mg). An aliquot (150 mg, 0.82 mmol) was suspended in 1,1-bis-dimethylamino-3,3-dimethyl-butan-2-one (0.42 mL, 2.02 mmol) in a N2-flushed flask and was heated at 70° C. for 18 h. The mixture was triturated in EtOAc to afford the title compound (119 mg) as a brown solid. 1H-NMR (DMSO-d6) δ: 2.30 (s, 3H, CH3), 2.40 (s, 3H, CH3), 2.80 (br. s, 3H, CH3), 3.07 (br. s, 3H, CH3), 5.19 (d, 1H, J=12.7 Hz, CH), 7.45 (d, 1H, J=12.4 Hz, CH), 12.76 (br, 1H, NH).

reactant | HNO3 | [N+](=O)(O)[O-] | HNO3
reactant | 1-(2,4-dimethyl-1H-pyrrol-3-yl)-ethanone | 3.64 mmol, 500 mg | CC=1NC=C(C1C(C)=O)C | C8H11NO
solvent | Ac2O | 6 mL | CC(=O)OC(=O)C | C4H6O3
solvent | Ac2O | 5 mL | CC(=O)OC(=O)C | C4H6O3
product | 1-(2,4-dimethyl-5-nitro-1H-pyrrol-3-yl)-ethanone | 158 mg | CC=1NC(=C(C1C(C)=O)C)[N+](=O)[O-] | C8H10N2O3
